US05747499
(6) (2S)-2-{o-Fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-4-(2-carboxymethyltetrazol-5-yl)-butyric acid
To a solution of methyl (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzamido}-4-(2-methoxycarbonylmethyltetrazol-5-yl)butyrate (87 mg) in methanol (2 ml) was slowly added an aqueous solution of NaOH (1N, 0.72 ml). The resultant solution was stirred at room temperature for 4 hours then more aqueous 1N NaOH (0.36 ml) was added and stirring was continued at room temperature for 1 hour. Next the solution was diluted with water (3 ml) and acidified to pH 4 with 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water (15 ml), and dried in vacuo over phosphorus pentoxide. There was thus obtained (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-amino]benzamido}-4-(2-carboxymethyltetrazol-5-yl)butyric acid (57 mg) as a pale yellow solid, m.p. 196°-199° C.;

reactant | methyl (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzamido}-4-(2-methoxycarbonylmethyltetrazol-5-yl)butyrate | 87 mg | FC1=C(C(=O)N[C@H](C(=O)OC)CCC=2N=NN(N2)CC(=O)OC)C=CC(=C1)N(C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O)C | C35H41FN8O8
reactant | NaOH | 1N, 0.72 ml | [OH-].[Na+]
reactant | NaOH | 1N, 0.36 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | (2S)-2-{o-Fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-4-(2-carboxymethyltetrazol-5-yl)-butyric acid | FC1=C(C(=O)N[C@H](C(=O)O)CCC=2N=NN(N2)CC(=O)O)C=CC(=C1)N(C1CCC2=C1C=C1C(NC(=NC1=C2)C)=O)C | C27H27FN8O6
